US08865726B2
A mixture of sodium hydride (354 mg, 8.86 mmol) and iodoethane (0.90 ml, 11.2 mmol) in anhydrous THF (22 mL) was chilled to 0° C. A solution of (S)-(2-phenyl-4,5-dihydrooxazol-4-yl)methanol (785 mg, 4.43 mmol) (Synthesis, 1993, 2, 250-262; using D-, instead of L-serine as a starting material) in 10 ml anhydrous THF was then added dropwise to the reaction mixture. The resulting mixture was allowed to warm to ambient temperature, and stirred overnight. After addition of water, the mixture was extracted with EtOAc. The combined organic extracts were dried and concentrated to afford (S)-4-(ethoxymethyl)-2-phenyl-4,5-dihydrooxazole as a clear, light-brown oil (0.981 g, 108%), which was used directly in the next step.

reactant | sodium hydride | 8.86 mmol, 354 mg | [H-].[Na+]
reactant | iodoethane | 11.2 mmol, 0.90 ml | ICC | C2H5I
reactant | (S)-(2-phenyl-4,5-dihydrooxazol-4-yl)methanol | 4.43 mmol, 785 mg | C1(=CC=CC=C1)C=1OC[C@@H](N1)CO | C10H11NO2
reactant | L-serine | N[C@@H](CO)C(=O)O | C3H7NO3
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (S)-4-(ethoxymethyl)-2-phenyl-4,5-dihydrooxazole | C(C)OC[C@@H]1N=C(OC1)C1=CC=CC=C1 | C12H15NO2
